US04027027
9.6 g of sodium hydride are added in portions, whilst stirring, to a solution of 59.6 g of 2,3-dichloropyrazine and 52.8 g of 2,2-dimethyl-4-hydroxymethyl-1,3-dioxolane in 500 ml of hexamethylphosphoric acid triamide at 0°-5° C. (duration of the addition: 40 minutes). The reaction mixture is then stirred for 40 hours at room temperature after which it is poured onto an ice-water mixture. The aqueous phase is extracted with diethyl ether. The combined organic extracts are washed with water, dried over sodium sulphate and evaporated under a waterpump vacuum. 4-(2-Chloro-3-pyrazinyloxymethyl)-2,2-dimethyl-1,3-dioxolane is obtained as an oily residue.

reactant | sodium hydride | 9.6 g | [H-].[Na+]
reactant | 2,3-dichloropyrazine | 59.6 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | 2,2-dimethyl-4-hydroxymethyl-1,3-dioxolane | 52.8 g | CC1(OCC(O1)CO)C | C6H12O3
solvent | hexamethylphosphoric acid triamide | 500 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 4-(2-Chloro-3-pyrazinyloxymethyl)-2,2-dimethyl-1,3-dioxolane | ClC1=NC=CN=C1OCC1OC(OC1)(C)C | C10H13ClN2O3
